US08022223B2
A mixture of 5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ol hydrochloride (1.0 g, 3.10 mmol), tert-butyl 3-bromopyrrolidine-1-carboxylate (WO 2003/062224) (1.01 g, 4.03 mmol), K2CO3 (1.29 g, 9.30 mmol), and DMF (20 mL) were reacted at 50° C. over the weekend. The reaction was cooled to room temperature, poured into water (250 mL) and extracted with EtOAc:ether (1:1). The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (40% EtOAc in hexanes) to afford tert-butyl 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)pyrrolidine-1-carboxylate (584 mg, 41.4% yield) as a tan solid. 1H NMR (CDCl3) δ 8.42 (bs, 1H), 8.02 (s, 1h), 7.10 (d, 1H), 6.42 (s, 1H), 4.95 (m, 1H), 3.75-3.44 (m, 4H), 2.35 (d, 3H), 2.21 (m, 2H), 1.50 (s, 9H); Mass spectrum (apci) m/z=456.9 (M+H).

reactant | 5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ol hydrochloride | 3.10 mmol, 1.0 g | Cl.BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)O
reactant | tert-butyl 3-bromopyrrolidine-1-carboxylate | 4.03 mmol, 1.01 g | BrC1CN(CC1)C(=O)OC(C)(C)C | C9H16BrNO2
reactant | K2CO3 | 9.30 mmol, 1.29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | tert-butyl 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)pyrrolidine-1-carboxylate | 584 mg, 41.4% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1CN(CC1)C(=O)OC(C)(C)C | C18H23BrN4O3S
